datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C8=CC=CC=C8)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][S:10]C(CC)C(C)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])[O][C:20]([S]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CC1C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CC>>CC1C(O[C:20](=[O:10])N1[H])CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"CC[NH:10][H].CC[NH+:21]=[C:20]([NH]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]CC)([NH]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CC)[H])CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CC)[H])[O-:10])CCCCCC 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][S:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C([O-:21])CCCCCC)CC)C1=CC=CC=C1>>CN([C:20]1(OC(C([O:21]1)CCCCCC)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O:10]C([H])C([H])=C1C>>[O-:10]C([H])/C([H])=C([C:20](OC)=[O:21])/C 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"[K][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OC)CC>>[K][O:21]CC.[C:20](=[O:10])(OC1=CC=CC=C1)OC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C)CC.[O-:21]CC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(CC)C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(CC)C([H])[NH]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)[H])[H])[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)[H])[H])[H] 10=20;20,21=21"
"[O:20]=[C:21](OC1=CC=CC=C1)OC1=CC=CC=C1.C1=CC=CC=C1[O:10][Na]>>C1=CC=CC=C1[O+:10]([Na])[C:21]([O-:20])(OC1=CC=CC=C1)OC1=CC=CC=C1 10=21;21,20=20"
"[NH:10]([H])C(CC)C(C)C(O)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(O)C(C)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[O]CC.[Cl-]>>[Cl-].[H][O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[O]CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[O-:10]C([H])C([H])/C([H])=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C([H])C([H])C([H])[O:10]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])=C([H])C([H])C(CC)[O:10]1>>[O-:10]C(CC)C([H])/C([H])=C([H])\[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[H][S:10]C(C)C(CC)[O][C:20]([O]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C([H])[NH][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
